US05340802
7a: 4-(1-Acetyl-indol-4-yl)-but-2-enoic acid methyl ester
To a solution of 1-acetyl-indole-4-acetaldehyde (2.40 g, 11.93 mmol) prepared according to the method of H. Plieninger, et. al., Chem.Ber., 1956, 89:270 in THF (100 mL) was added methyl(triphenylphos-phoranylidene)acetate (4.78 g, 14.3 mmol). The solution was stirred at ambient temperature overnight. The solvent was removed in vacuo and the residue chromatographed (eluting with ethyl acetate/hexanes). Recrystallization from ethyl acetate/hexanes resulted in 2.12 g of the title compound as a white solid in two crops; MS(CI/NH3) m/e 258 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ2.60 (s, 3H), 3.70 (s, 3H), 3.75 (dd, 2H), 3.75 (m, 1H), 6.63 (dd, 1H), 7.05 (d, 1H), 7.12-7.22 (m, 2H), 7.29 (t, 1H), 7.43 (d, 1H), 8.35 (d, 1H).

reactant | 1-acetyl-indole-4-acetaldehyde | 11.93 mmol, 2.40 g | C(C)(=O)N1C=CC=2C(=CC=CC12)CC=O | C12H11NO2
reactant | methyl(triphenylphos-phoranylidene)acetate | 14.3 mmol, 4.78 g | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-(1-Acetyl-indol-4-yl)-but-2-enoic acid methyl ester | 2.12 g | COC(C=CCC1=C2C=CN(C2=CC=C1)C(C)=O)=O | C15H15NO3
